Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lidocaine / Tetracyclines
 
Attending: ___
 
Pertinent Results:
___ 01:40AM BLOOD WBC-9.7 RBC-3.23* Hgb-9.7* Hct-31.0* 
MCV-96 MCH-30.0 MCHC-31.3* RDW-13.7 RDWSD-48.8* Plt ___
___ 05:50AM BLOOD WBC-7.0 RBC-3.40* Hgb-10.0* Hct-32.6* 
MCV-96 MCH-29.4 MCHC-30.7* RDW-13.4 RDWSD-47.8* Plt ___
___ 01:40AM BLOOD Glucose-106* UreaN-18 Creat-0.9 Na-143 
K-4.1 Cl-110* HCO3-22 AnGap-11
___ 05:50AM BLOOD Glucose-99 UreaN-15 Creat-0.8 Na-145 
K-4.2 Cl-106 HCO3-24 AnGap-15
___ 01:40AM BLOOD ALT-265* AST-397* AlkPhos-91 TotBili-0.3
___ 05:50AM BLOOD ALT-98* AST-40 AlkPhos-81 TotBili-0.2
___ 01:40AM BLOOD Lipase-16
___ 01:40AM BLOOD TotProt-6.1* Albumin-3.6 Globuln-2.5 
Iron-12*
___ 05:50AM BLOOD Mg-2.0
___ 01:40AM BLOOD calTIBC-231* Ferritn-1580* TRF-178*
___ 01:40AM BLOOD TSH-1.7
___ 01:40AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG IgM HAV-NEG
___ 01:40AM BLOOD CMV IgG-PND CMV IgM-PND CMVI-PND EBV 
IgG-PND EBNA-PND EBV IgM-PND EBVI-PND
___ 01:40AM BLOOD tTG-IgA-PND
___ 01:40AM BLOOD HoldBLu-HOLD
___ 01:40AM BLOOD HCV Ab-NEG
___ 02:07AM BLOOD Lactate-1.6

EXAMINATION:  MRCP. 
  
INDICATION:  Dilated bile duct.  Liver function tests elevation 
without 
hyperbilirubinemia. 
  
TECHNIQUE:  Multiplanar T1- and T2-weighted images of the 
abdomen were 
obtained on a 1.5 tesla magnet including sequences obtained 
prior to and 
following intravenous gadolinium contrast.  8 cc of Magnevist 
was administered 
intravenously. 
  
COMPARISON:  CT is available from ___. 
  
FINDINGS:  
  
Heart is mildly enlarged. 
  
No focal liver lesions are identified.  There is moderate 
intrahepatic and 
extrahepatic biliary dilatation down to the ampulla.  The common 
bile duct 
measures up to 11 mm in diameter.  However, the degree of 
dilatation is not 
necessarily out of proportion to prior cholecystectomy and a. 
The pancreatic 
duct is top-normal in size measuring up to 3 mm in diameter.  No 
filling 
defects are found or evidence for stricture.  Spleen is normal 
in size and 
appearance.  Adrenals are unremarkable.  Scattered small cysts 
are found in 
the kidneys. 
  
Stomach and visualized bowel appear within normal limits.  Major 
vascular 
structures appear patent.  There is no free fluid or 
lymphadenopathy.  Bone 
marrow signal intensities are unremarkable. 
  
  
  
IMPRESSION:  
  
Moderate biliary dilatation.  No evidence for stones, solid 
masses or 
strictures.  Correlation with clinical circumstances is 
recommended. Although 
papillary stenosis or sphincter of Oddi dysfunction can not be 
excluded, the 
findings could be within normal limits following prior 
cholecystectomy.  No 
definite hepatic parenchymal abnormality. 
  

 
Brief Hospital Course:
Ms. ___ is a ___ female
transferred from outside hospital for concerns for cholangitis 
in
the setting of fevers and rigors and CT scan showing concerns 
for
either ileus versus early SBO or cholangitis. Repeat labs here
show elevated LFTs in a hepatocellular pattern, mild anemia but
no elevation in white count. Her transaminitis is of unclear
etiology, but biliary pathology is less likely given normal
bilirubin. She also denies alcohol use. Will further workup up
her LFT elevation with hepatitis panel, ferritin, and ___
MRCP. 

ACUTE/ACTIVE PROBLEMS:
#Abdominal Pain
#Hepatocellular transaminitis
#Acute liver injury
___ 01:40AM BLOOD ALT: 265* AST: 397* AlkPhos: 91 TotBili:
0.3 
Ddx initially included hepatitis, food borne illness, CMV, EBV, 
celiac
disease. Pt denied significant etoh use but has been taking up 
to
4g tylenol daily for dental surgery.
- trend LFTs daily
- MRCP ordered given biliary dilatation and was consistent with 
a post-cholecystectomy state
- Hepatitis panels negative, consented verbally for HIV testing
- SPEP, ___, EBV, CMV, TTG ordered
- ferritin elevated at 1580 but T sat ~5%
- held statin
- advised to stay under 3 g tylenol daily

#Diarrhea
three episodes over the past few days. Pt describes it as
explosive with stool incontinence.
- c diff PCR negative; started immodium prn
- stool cultures, CMV, EBV all unremarkable
- TTG pending at time of discharge

CHRONIC/STABLE PROBLEMS:
#HTN
- continued home valsartan

#HLD
- held home statin in the setting of transaminitis

#Depression/Anx
- advised pt to bring in home Welbutrin (has intolerance to
generic version)

TRANSITIONAL ISSUES
[] Transaminitis: consider restarting statin at outpatient 
follow up once LFTs have been repeated. Follow up anti-smooth 
ab. Encourage pt to take no more than 3g tylenol daily. If LFT 
elevation recurs consider testing for HIV as well.
[] Diarrhea: follow up pending labwork (TTG, stool studies)
[] ___: repeat iron panel and consider ferrlicet infusion given 
T sat ~5%. This was not given inpatient as the patient's 
ferritin was very elevated 
[] Pt is HBV nonimmune and may benefit from a vaccination series

>30 min spent on discharge planning including >50% face to face 
time
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pravastatin 40 mg PO QPM 
2. Benicar (olmesartan) 40 mg oral DAILY 
3. BuPROPion (Sustained Release) 150 mg PO QAM 

 
Discharge Medications:
1.  Benicar (olmesartan) 40 mg oral DAILY  
2.  BuPROPion (Sustained Release) 150 mg PO QAM  
3. HELD- Pravastatin 40 mg PO QPM  This medication was held. Do 
not restart Pravastatin until your primary care doctor rechecks 
your liver enzymes
4.Outpatient Lab Work
Comprehensive metabolic panel
ICD:R74.0
PCP: ___. ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transaminitis
Diarrhea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with abdominal pain, diarrhea 
and elevated liver enzymes. We were not able to find a cause for 
your symptoms but ruled out several dangerous etiologies, 
including viral hepatitis, CMV, c diff colitis, infectious 
mononucleosis and bile duct stones. Your liver enzymes have 
normalized. You should follow up with your primary care doctor 
in ___ weeks so she can recheck them to ensure they are stable. 
Please do not take more than 3 grams of tylenol daily until your 
appointment to allow your liver inflammation to resolve.
 
Followup Instructions:
___